US06562847B1
Step (b): 3-(1-t-Butoxycarbonyl-3-azetidinyloxy)-pyridine
To 315 mg (1.2 mmol) of PPh3 in 5 mL of dry THF at −20° C. was added 189 μL (1.2 mmol) of DEAD dropwise. The solution was allowed to stir 10 min. at −20° C. After 10 min, a solution containing 173 mg (1 mmol) of N-Boc-3-hydroxyazetidine and 2 mL of dry THF was added dropwise. The solution was again allowed to stir 10 min at −20° C. After 10 min, to the solution was added 95 mg (1 mmol) of 3-hydroxypyridine at once. The solution was then slowly heated to 70° C. and allowed to stir at 70° C. overnight. Next day, solvent was removed under reduced pressure. The crude product was purified by flash chromatography (2:1, Hexane:Ethyl Acetate) to obtain 160 mg (64% yield) of a yellow oil: 1H NMR (300 MHz, CD3OD) δ8.27 (1H, d, J=4.8 Hz), 8.18 (1H, d, J=2.7 Hz), 7.23 (1H, m), 7.05 (1H, m), 4.92 (1H, m), 4.34-4.00 (2H, AB, J=6.6, 9.7 Hz), 1.45 (9H, s).

reactant | PPh3 | 1.2 mmol, 315 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | DEAD | 1.2 mmol, 189 μL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | N-Boc-3-hydroxyazetidine | 1 mmol, 173 mg | C(=O)(OC(C)(C)C)N1CC(C1)O | C8H15NO3
reactant | 3-hydroxypyridine | 1 mmol, 95 mg | OC=1C=NC=CC1 | C5H5NO
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 3-(1-t-Butoxycarbonyl-3-azetidinyloxy)-pyridine | 160 mg, 64% yield | C(C)(C)(C)OC(=O)N1CC(C1)OC=1C=NC=CC1 | C13H18N2O3
